US09376422B2
Step 2: Synthesis of 5-{1-[(tert-butoxy)carbonyl]azetidin-3-yl}-2-methyl-3-[methyl(oxan-4-yl)amino]benzoic acid
To a dry flask was added zinc dust (436 mg, 6.67 mmol) and the flask was heated using a heat gun for a few minutes. Then anhydrous DMA (20 ml) was added under nitrogen whilst stirring vigorously and heating to 65° C. TMS-Cl (102 μl, 0.8 mmol) and 1,2-dibromoethane (70 μl, 0.8 mmol) were added and the reaction was stirred at 65° C. for 30 min followed by the dropwise addition of N-Boc-3-iodoazetidine (1.46 g, 5.16 mmol) as a solution in anhydrous DMA (15 ml). The reaction was then cooled to room temperature and methyl 5-bromo-2-methyl-3-[methyl(oxan-4-yl)amino]benzoate (1.06 g, 3.09 mmol) was added as a solution in anhydrous DMA (15 ml). The resulting solution was degassed with nitrogen for 10 mins after which Pd(dppf)Cl2.DCM (76 mg, 0.09 mmol) and copper (I) iodide (35 mg, 0.19 mmol) were added as solids. The reaction was heated to 80° C. for 90 min and then cooled to room temperature followed by the addition of distilled water (100 ml) and saturated NH4Cl solution (10 ml). The aqueous phase was extracted with TBME (3×50 ml), and then the combined organic phases were dried with Na2SO4, filtered and evaporated. The residue was purified over a 25 g Isolute column using 0%-40% EtOAc in heptane as the eluent to afford the title compound as a pale brown oil (507 mg). LC-MS 97%, m/z=420.0. To a stirred solution of tert-butyl 3-[3-(methoxycarbonyl)-4-methyl-5-[methyl(oxan-4-yl)amino]phenyl]azetidine-1-carboxylate (85 mg, 0.2 mmol) in THF (2 ml) and MeOH (0.1 ml) was added 2M NaOH solution (1.02 ml, 2.03 mmol) and the reaction was stirred at 50° C. for 16 h after which time 4M NaOH solution (0.5 ml, 2.0 mmol) was added and the reaction was heated for a further 24 h. The reaction was cooled to room temperature and the solvent removed in vacuo after which the aqueous solution was adjusted to pH3 using 1M HCl. The product was extracted into DCM (2×50 ml), washed with brine (20 ml), dried with Na2SO4 and filtered to afford the title compound as an off-white solid (47 mg, 21% over two steps). LC-MS 95%, m/z=405.1, 1H NMR (500 MHz, Chloroform-d) δ 7.66 (t, J=7.0 Hz, 1H), 7.19 (d, J=1.3 Hz, 1H), 4.34 (t, J=8.7 Hz, 2H), 3.98 (dd, J=16.6, 10.2 Hz, 4H), 3.79-3.69 (m, 2H), 3.35 (dd, J=11.5, 10.0 Hz, 2H), 2.97 (td, J=10.8, 5.3 Hz, 1H), 2.67 (s, 3H), 2.55 (d, J=6.6 Hz, 3H), 1.74 (ddd, J=15.5, 12.1, 4.3 Hz, 2H), 1.66 (d, J=11.1 Hz, 2H), 1.48 (s, 9H).

reactant | TMS-Cl | 0.8 mmol, 102 μl | [Si](C)(C)(C)Cl | C3H9ClSi
reactant | 1,2-dibromoethane | 0.8 mmol, 70 μl | BrCCBr | C2H4Br2
reactant | N-Boc-3-iodoazetidine | 5.16 mmol, 1.46 g | C(=O)(OC(C)(C)C)N1CC(C1)I | C8H14INO2
reactant | methyl 5-bromo-2-methyl-3-[methyl(oxan-4-yl)amino]benzoate | 3.09 mmol, 1.06 g | BrC=1C=C(C(=C(C(=O)OC)C1)C)N(C1CCOCC1)C | C15H20BrNO3
reactant | DCM | 0.09 mmol, 76 mg | C(Cl)Cl | CH2Cl2
reactant | NH4Cl | 10 ml | [NH4+].[Cl-]
solvent | DMA | 15 ml | CC(=O)N(C)C | C4H9NO
solvent | DMA | 15 ml | CC(=O)N(C)C | C4H9NO
catalyst | zinc | 6.67 mmol, 436 mg | [Zn] | Zn
catalyst | copper (I) iodide | 0.19 mmol, 35 mg | [Cu]I
solvent | DMA | 20 ml | CC(=O)N(C)C | C4H9NO
solvent | water | 100 ml | O | H2O
product | 5-{1-[(tert-butoxy)carbonyl]azetidin-3-yl}-2-methyl-3-[methyl(oxan-4-yl)amino]benzoic acid | 507 mg | C(C)(C)(C)OC(=O)N1CC(C1)C=1C=C(C(=C(C(=O)O)C1)C)N(C1CCOCC1)C | C22H32N2O5
